US07932262B2
A mixture of 7-methoxy-N-(4-(morpholinosulfonyl)phenyl)quinazolin-2-amine (1 eq) and sodium thiomethoxide (4 eq) in NMP was heated at 80° C. for 4 h. Reaction mixture was diluted with water and acidified with 1N HCl. Compound was extracted with ethyl acetate. The organic layer was washed with satd. NaHCO3, brine and dried over sodium sulfate. Filtration, evaporation and drying under vacuum provide 2-(4-(morpholinosulfonyl)phenylamino) quinazolin-7-ol as a light yellow viscous liquid in 99% yield. ES/MS m/z 387.0 (MH+).

reactant | 7-methoxy-N-(4-(morpholinosulfonyl)phenyl)quinazolin-2-amine | 1 eq | COC1=CC=C2C=NC(=NC2=C1)NC1=CC=C(C=C1)S(=O)(=O)N1CCOCC1 | C19H20N4O4S
reactant | sodium thiomethoxide | 4 eq | C[S-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | NMP | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 2-(4-(morpholinosulfonyl)phenylamino) quinazolin-7-ol | 99% yield | O1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)NC1=NC2=CC(=CC=C2C=N1)O | C18H18N4O4S
